US07262200B2
To a suspension of 6-iodo-quinazoline-2,4-diol sodium salt (849 mg, 2.74 mmol) in phosphorus oxychloride (20 mL), was added triethylamine hydrochloride (1.70 g, 12.32 mmol). The reaction mixture was heated at 100 C for 16 hours, then concentrated in vacuum. Ice chips were added to the remaining residue, which was diluted with dichloromethane, washed with water and saturated aqueous sodium bicarbonate, then dried over magnesium sulfate to give 2,4-dichloro-6-iodo-quinazoline as an off-white solid (799 mg, 90%). HNMR (500 MHz, DMSO) δ7.82 (d, 1H), 8.45 (d, 1H), 8.63 (s, 1H). LCMS (ES+) m/e 324.8 (M+H).

reactant | 6-iodo-quinazoline-2,4-diol sodium salt | 2.74 mmol, 849 mg | [Na].IC=1C=C2C(=NC(=NC2=CC1)O)O
reactant | triethylamine hydrochloride | 12.32 mmol, 1.70 g | Cl.C(C)N(CC)CC
reactant | phosphorus oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,4-dichloro-6-iodo-quinazoline | 799 mg, 90% | ClC1=NC2=CC=C(C=C2C(=N1)Cl)I | C8H3Cl2IN2
